US07338960B2
({2-Methyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}hexyl)oxy]phenyl}oxy)acetic acid
To a solution of ethyl ({2-methyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}hexyl)oxy]phenyl}oxy)acetate (80 mg, 0.16 mmol) in MeOH (2 mL) and THF (2 mL) at rt was added aqueous NaOH (2M, 1 mL, 2.0 mmol) and the resulting mixture stirred for 2.5 hours. The solvents were then removed under vacuum and the residue partitioned between DCM (20 mL) and aqueous HCl (2M, 20 mL), the layers separated and the aqueous re-extracted with DCM (20 mL). The combined organic solution was passed through a hydrophobic frit and then reduced affording the title compound as colourless oil (57 mg).

reactant | ethyl ({2-methyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}hexyl)oxy]phenyl}oxy)acetate | 0.16 mmol, 80 mg | CC1=C(C=CC(=C1)OC(CCCCC)C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)OCC | C29H32F3NO4
reactant | NaOH | 2.0 mmol, 2M, 1 mL | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | ({2-Methyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}hexyl)oxy]phenyl}oxy)acetic acid | 57 mg | CC1=C(C=CC(=C1)OC(CCCCC)C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)O | C27H28F3NO4
